US07943647B2
5-(4′-methylbiphenyl-2-yl)-1H-tetrazole
A 20 ml flask is dried under argon and then charged with 7 ml of diisobutylaluminium fluoride (1 molar in hexane) followed by 5 ml of toluene and 455 mg of NaN3 (7 mmol). After stirring the suspension for 4 hours at room temperature 966 mg of solid ortho-tolylbenzonitrile (OTBN) is added at 0° C. in one portion. The suspension is warmed up to 130° C. (ext. temp.) with an internal temperature of 100° C. After 44 h at 130° C. (ext. temp.) the conversion is >93%. The reaction mixture was quenched in hydrochloric acid (6 molar). After addition of 10 ml of toluene the layers are separated, the organic layer is washed twice with 20 ml of water, dried over sodium sulfate and evaporated to give a crystalline residue of the product.

reactant | NaN3 | 7 mmol, 455 mg | [N-]=[N+]=[N-].[Na+]
reactant | ortho-tolylbenzonitrile | C1(=C(C=CC=C1)C1=C(C#N)C=CC=C1)C | C14H11N
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4′-methylbiphenyl-2-yl)-1H-tetrazole | CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C14H12N4
